US06858651B2
In analogy to examples 29.10 and 29.11, trans-Methansulfonic acid 5-(4-methyl amino-cyclohexyl)-pentyl ester.trifluoroacetic acid salt and 4-trifluoromethyl-phenyl chloroformate were reacted, followed by treatment with N-allylmethylamine to yield trans-{4-[5-(Allyl-methyl-amino)-pentyl]-cyclohexyl]-methyl-carbamic acid 4-trifluoromethyl-phenyl ester, MS: 441 (MH+).

reactant | trans-Methansulfonic acid 5-(4-methyl amino-cyclohexyl)-pentyl ester | CN[C@@H]1CC[C@H](CC1)CCCCCOS(=O)(=O)C | C13H27NO3S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-trifluoromethyl-phenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)C(F)(F)F | C8H4ClF3O2
reactant | N-allylmethylamine | C(C=C)CN | C4H9N
product | trans-{4-[5-(Allyl-methyl-amino)-pentyl]-cyclohexyl]-methyl-carbamic acid 4-trifluoromethyl-phenyl ester | FC(C1=CC=C(C=C1)OC(N(C)[C@@H]1CC[C@H](CC1)CCCCCN(C)CC=C)=O)(F)F | C24H35F3N2O2
